US04857539
To a stirred mixture of 65.1 g (4-methoxy)thiobenzamide and 156 ml ethanol was added dropwise 50.1 g 3-chloro-2-butanone, and the reaction mixture was heated at reflux for 3 hours. An additional 6.1 g 2-chloro-3-butanone was added and heating was continued for an additional hour. The reaction mixture was cooled, 300 ml ether added, and the solid which precipitated was collected and dried to give 74.5 g 2-(4-methoxyphenyl)-4,5-di-methylthiazole in the form of its hydrochloride monohydrate, m.p. 166-170° C.

reactant | (4-methoxy)thiobenzamide | 65.1 g | COC1=CC=C(C(=S)N)C=C1 | C8H9NOS
reactant | ethanol | 156 ml | C(C)O | C2H6O
reactant | 3-chloro-2-butanone | 50.1 g | ClC(C(C)=O)C | C4H7ClO
reactant | 2-chloro-3-butanone | 6.1 g | ClC(C)C(C)=O | C4H7ClO
solvent | ether | 300 ml | CCOCC | C4H10O
product | 2-(4-methoxyphenyl)-4,5-di-methylthiazole | 74.5 g | COC1=CC=C(C=C1)C=1SC(=C(N1)C)C | C12H13NOS
